US06756372B2
(a) 2-Amino-4,4-dimethyl-pentanoic acid methyl ester
2-Amino-4,4-dimethyl-pentanoic acid (1.00 g, 6.84 mmol) was suspended in 50 mL of methanol and cooled in an ice bath. Thionyl chloride (1.82 g, 15.0 mmol) was added dropwise, at which time all the acid went into solution. The reaction was then removed from the ice bath and heated to reflux for 3.5 h. The reaction mixture was concentrated in vacuo and the resulting solid (1.10 g) was used in the next step without further purification. MS, m/z 159.9=M+1

reactant | 2-Amino-4,4-dimethyl-pentanoic acid | 6.84 mmol, 1.00 g | NC(C(=O)O)CC(C)(C)C | C7H15NO2
reactant | Thionyl chloride | 15.0 mmol, 1.82 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 mL | CO | CH4O
product | 2-Amino-4,4-dimethyl-pentanoic acid methyl ester | COC(C(CC(C)(C)C)N)=O | C8H17NO2
